US07115598B2
5-[(3S)-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-methoxycarbonyl-2,5-dioxo-3,4-dihydro-1H-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester
A solution of 5-[(3S)-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-iodo-2,5-dioxo-3,4-dihydro-1H-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester (300 mg, 0.42 mmol), dichloro bis-(triphenylphosphine)Pd(II) (21 mg, 0.030 mmol), and triethylamine (200 μL, 1.43 mmol), in DMF (4 mL) and methanol (1.5 mL) was stirred under a carbon monoxide atmosphere at 80° C. for 24 h. After the solution was cooled to room temperature, the solvent was evaporated under reduced pressure. The crude reaction product was purified by column chromatography on silica gel (EtOAc/hexanes, 1:2) to give the title compound (226 mg, 83%): 1H NMR (400 MHz, CDCl3) δ 1.45 (s, 9H, 3 CH3), 1.58–1.62 (m, 2H, CH2), 1.75 (d, J=5.4 Hz, 3H, CH3), 2.24 (t, J=10.5 Hz, 2H, CH2), 3.62–3.90 (m, 3H, 3 CH), 3.91 (s, 3H, CH3), 4.23–4.31 (m, 1H, CH), 5.34 (s, 1H, CH), 6.45 (q, J=5.4 Hz, 1H, CH), 6.50 (d, J=6.3 Hz, 2H, ArH), 6.84 (d, J=6.3 Hz, 2H, ArH), 6.94 (d, J=6.6 Hz, 1H, ArH), 7.32 (d, J=6.6 Hz, 2H, ArH), 7.50 (d, J=6.3 Hz, 2H, ArH), 7.84 (dd, J=6.3 Hz, J=1.5 Hz, 1H, ArH), 8.33 (d, J=1.5 Hz, 1H, ArH).

reactant | 5-[(3S)-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-iodo-2,5-dioxo-3,4-dihydro-1H-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester | 0.42 mmol, 300 mg | C(C)(C)(C)OC(CCCCN1C([C@@H](N(C(C2=C1C=CC(=C2)I)=O)[C@H](C)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)=O)=O | C32H33Cl2IN2O4
reactant | triethylamine | 1.43 mmol, 200 μL | C(C)N(CC)CC | C6H15N
reactant | methanol | 1.5 mL | CO | CH4O
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-[(3S)-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-methoxycarbonyl-2,5-dioxo-3,4-dihydro-1H-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester | 226 mg, 83% | C(C)(C)(C)OC(CCCCN1C([C@@H](N(C(C2=C1C=CC(=C2)C(=O)OC)=O)[C@H](C)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)=O)=O | C34H36Cl2N2O6
